US07932272B2
3-Bromo-quinoline-6-carboxylic acid methyl ester
To a mixture of quinoline-6-carboxylic acid methyl ester (0.50 g, 2.7 mmol) and tetrahydrofuran (10 mL) was added 1,3-dibromo-5,5-dimethyl hydantoin (0.76 g, 2.7 mmol) on an ice bath, and the solution was stirred at 50° C. for 4 hours. Water, an aqueous solution of saturated sodium bicarbonate and ethyl acetate were added to the reaction solution, which was then partitioned, the organic layer was washed with brine, the solvent was then evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1), and the title compound (69 mg, 0.26 mmol, 10%) was obtained as a white solid.

reactant | quinoline-6-carboxylic acid methyl ester | 2.7 mmol, 0.50 g | COC(=O)C=1C=C2C=CC=NC2=CC1 | C11H9NO2
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | 1,3-dibromo-5,5-dimethyl hydantoin | 2.7 mmol, 0.76 g | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 3-Bromo-quinoline-6-carboxylic acid methyl ester | 0.26 mmol, 69 mg, 10% | COC(=O)C=1C=C2C=C(C=NC2=CC1)Br | C11H8BrNO2
